US07074798B2
e) 4-[1-(2,2-Dimethylpropionyloxymethyl)-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[1,3-Bis(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (704 mg) was dissolved in tetrahydrofuran (7 ml) and methanol (14 ml), sodium hydride (51 mg) was added to the solution, and the mixture was stirred at room temperature for 17 minutes. The reaction mixture was diluted with chloroform and washed with saturated brine. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure and the residue was purified by silica gel column chromatography to give 510 mg of the title compound from the elution fraction of hexane-ethyl acetate (2:3).

reactant | 4-[1,3-Bis(2,2-dimethylpropionyloxymethyl)-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 704 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)C=C)=O)COC(C(C)(C)C)=O)=O)COC(C(C)(C)C)=O | C34H46N6O8
reactant | sodium hydride | 51 mg | [H-].[Na+]
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | methanol | 14 ml | CO | CH4O
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-[1-(2,2-Dimethylpropionyloxymethyl)-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 510 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2NC(N(C(C2N1C1=C(C=CC=C1)C=C)=O)COC(C(C)(C)C)=O)=O | C28H36N6O6
